US07777047B2
ethyl 7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylate
To a mixture of ethyl 5-[3-(methylsulfonyl)propoxy]-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate (3.50 g), potassium carbonate (1.01 g) and N,N-dimethylformamide (50 mL) was added methyl iodide (1.14 g) at 0° C., and the reaction mixture was stirred at room temperature for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with a mixed solvent of ethyl acetate-tetrahydrofuran. The organic layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to basic silica gel column chromatography, and eluted with hexane-ethyl acetate (1:1-1:4, volume ratio) to give the title compound (2.70 g, yield 75%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane to give colorless prism crystals. melting point 176-177° C.

reactant | ethyl 5-[3-(methylsulfonyl)propoxy]-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate | 3.50 g | CS(=O)(=O)CCCOC=1C=C2C=C(NC2=C(C1)NS(=O)(=O)C1=NC=CC=C1)C(=O)OCC | C20H23N3O7S2
reactant | potassium carbonate | 1.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | methyl iodide | 1.14 g | CI | CH3I
solvent | Water | O | H2O
product | ethyl 7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylate | 2.70 g, yield 75% | CN(C=1C=C(C=C2C=C(NC12)C(=O)OCC)OCCCS(=O)(=O)C)S(=O)(=O)C1=NC=CC=C1 | C21H25N3O7S2
